US07977344B2
2,6-Dichloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine
A mixture of tetrahydro-2H-pyran-4-ylmethanol (2.44 g) and 2,6-dichloropurine (1.97 g) was dissolved in dry THF (25 mL). To this solution was added triphenylphosphine (5.51 g), followed by diisopropyl azodicarboxylate (4.14 mL) added drop wise. The temperature of the reaction was kept below 43° C. (some cooling with a water bath was required). The reaction was stirred overnight at ambient temperature before being quenched with water (100 mL) and extracted into ethyl acetate (50 mL, twice). The separated and combined organic layer was then washed with water (100 mL). The organic layer was separated and then dried by passing through a hydrophobic frit before evaporation under reduced pressure to give pale yellow viscous oil. The material was partially purified by silica chromatography (ISCO) using 0-100% ethyl acetate: cyclohexane.

reactant | tetrahydro-2H-pyran-4-ylmethanol | 2.44 g | O1CCC(CC1)CO | C6H12O2
reactant | 2,6-dichloropurine | 1.97 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | triphenylphosphine | 5.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.14 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2,6-Dichloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)Cl | C11H12Cl2N4O
